US06211199B1
41.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(5-chlorothien-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) Pyrrolidine
Prepare by the method of Example 37.2 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine and 5-chloro-2-(chloromethyl)thiophene to give, after purification on silica gel eluting with 1/2 methanol/ethyl acetate, the title compound: mp; 110-120° C. Rf=0.40 (silica gel, 1/2 methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | 5-chloro-2-(chloromethyl)thiophene | ClC1=CC=C(S1)CCl | C5H4Cl2S
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(5-chlorothien-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) Pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC=2SC(=CC2)Cl)C=CC=C3)C=C(C1OC)OC | C39H42ClF2N5O4S
